US07659268B2
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (220 mg, 1.00 mmol) and (S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate (343 mg, 1.20 mmol) in DMF (5 mL) was added Cs2CO3 (650 mg, 2.00 mmol). The mixture was heated at 90° C. for 4 hours. The mixture was partitioned between ethyl acetate and H2O. The aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over MgSO4 and evaporated to dryness to yield (R)-2-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (350 mg) which was used without further purification.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 1.00 mmol, 220 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
reactant | (S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 4-methylbenzenesulfonate | 1.20 mmol, 343 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
reactant | Cs2CO3 | 2.00 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-2-(4-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 350 mg | CC1(OC[C@H](O1)COC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C18H27BO5
